US07572808B2
A. Preparation of 8-bromo-7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a solution of 8-bromo-7-chloro-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (456 mg, 2.0 mmol) in anhydrous DMF (7 mL) was added 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine (627 mg, 3.0 mmol), followed by anhydrous potassium carbonate (415 mg, 3.0 mmol). The resulting suspension was stirred under argon at 80° C. for 1.5 h. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and water, and the aqueous layer was extracted with EtOAc (30 mL×2). The combined EtOAc extracts were washed with water, then saturated aqueous NaCl, dried over Na2SO4, and evaporated under reduced pressure to provide crude product as a brown solid. The crude product was purified using a silica gel cartridge (40 g) eluted with a gradient of EtOAc (0-60%) in hexanes to afford the title compound as an off-white solid (733 mg, 87%). HPLC/MS: retention time=3.36 min, [M+H]+=420.1.

reactant | 8-bromo-7-chloro-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 2.0 mmol, 456 mg | BrC=1C=2N(C=CC1Cl)C(NN2)=O | C6H3BrClN3O
reactant | 3-(chloromethyl)-2-methyl-6-(trifluoromethyl)pyridine | 3.0 mmol, 627 mg | ClCC=1C(=NC(=CC1)C(F)(F)F)C | C8H7ClF3N
reactant | potassium carbonate | 3.0 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 8-bromo-7-chloro-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 733 mg, 87% | BrC=1C=2N(C=CC1Cl)C(N(N2)CC=2C(=NC(=CC2)C(F)(F)F)C)=O | C14H9BrClF3N4O
